US08865732B2
Following a literature procedure (Journal of Molecular Catalysis A: Chemical 2007, 267, 30) tert-butyl 3-ethylpyridin-2-ylcarbamate (820 mg, 3.68 mmol) was treated with 4.0 M HCl in dioxane (4 mL, 4 mmol) and the reaction was maintained at rt for 2 h. Water (2 mL) was added and K2CO3 was added until pH>10. The resulting suspension was filtered and the isolated solid was washed with EtOAc (2 mL). The organic filtrates were concentrated and the resulting residue was dissolved in acetonitrile (4 mL). A portion (2 mL) was treated with NH4OAc (100 mg), followed by NBS (280 mg, 1.57 mmol). The reaction was maintained at rt for 15 min. The reaction was then partitioned between EtOAc and water and the resulting layers separated. The aqueous portion was extract with EtOAc (2×5 mL) and the combined organic layers were concentrated. The resulting residue was purified by reverse phase HPLC. The collected fractions were basified to pH>10 by the addition of saturated aqueous Na2CO3 solution. Extraction with EtOAc (2×20 mL) followed by concentration provided 240 mg of 5-bromo-3-ethylpyridin-2-amine: 1H NMR (400 MHz, CDCl3) δ 7.99 (d, J=2.4 Hz, 1H); 7.39 (d, J=2.4 Hz, 1H); 4.41 (br s, 2H); 2.42 (q, J=7.2 Hz, 2H); 1.26 (t, J=7.2 Hz, 3H).

reactant | tert-butyl 3-ethylpyridin-2-ylcarbamate | 3.68 mmol, 820 mg | C(C)C=1C(=NC=CC1)NC(OC(C)(C)C)=O | C12H18N2O2
reactant | HCl | 4.0 M | Cl | ClH
reactant | dioxane | 4 mmol, 4 mL | O1CCOCC1 | C4H8O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | NBS | 1.57 mmol, 280 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | Water | 2 mL | O | H2O
product | 5-bromo-3-ethylpyridin-2-amine | 240 mg | BrC=1C=C(C(=NC1)N)CC | C7H9BrN2
